US05756757
CS 178560 describes the reaction of a solution of 3-hydroxy-2-naphthoyl chloride in toluene with 5-aminobenzimidazolone in the 30-fold amount of water in the presence of sodium acetate to give 3-hydroxy-N-benzimida-zolon-5-yl-2-naphthamide in 86% yield.

reactant | 3-hydroxy-2-naphthoyl chloride | OC=1C(=CC2=CC=CC=C2C1)C(=O)Cl | C11H7ClO2
reactant | 5-aminobenzimidazolone | NC1=CC=2C(=NC(N2)=O)C=C1 | C7H5N3O
reactant | water | O | H2O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-hydroxy-N-benzimida-zolon-5-yl-2-naphthamide | 86% yield | OC=1C(=CC2=CC=CC=C2C1)C(=O)NC1=CC=2C(=NC(N2)=O)C=C1 | C18H11N3O3
